US07323456B2
3-methoxymethoxybenzaldehyde
To a solution of 3-hydroxybenzaldehyde (1.0 g) in tetrahydrofuran (25 mL) was added sodium hydride (374 mg) at 0° C. and the mixture was stirred at 0° C. for 20 minutes. Methoxymethylchloride (0.92 mL) was added to the reaction mixture, which was stirred for 30 minutes at room temperature. The reaction mixture was poured into cold water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=8:1→5:1) to give the title compound (1.36 g) having the following physical data.

reactant | 3-hydroxybenzaldehyde | 1.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | sodium hydride | 374 mg | [H-].[Na+]
reactant | Methoxymethylchloride | 0.92 mL | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-methoxymethoxybenzaldehyde | 1.36 g | COCOC=1C=C(C=O)C=CC1 | C9H10O3
